US08138187B2
5-Fluoro-3-(2-(pyrrolidin-1-yl)ethyl)-1H-indole (Ind-36)
Pyrrolidine (2.94 g, 3.4 ml, 41.3 mmol) was dissolved in abs dioxane (100 ml), 3-(2-bromo-ethyl)-5-fluoro-1H-indole (5.00 g, 20.7 mmol) was added at RT and the mixture was stirred at 70° C. for 8 h. The solution was concentrated, the residue was taken up in CHCl3 (150 ml) and the mixture was washed with water (2×50 ml). The organic phase was dried over Na2SO4, filtered and concentrated i. vac. The residue obtained was purified by flash chromatography with 500 g of silica gel and chloroform/methanol (20:1→9:1→4:1→methanol. Only with methanol was a salt of the compound obtained, and it was then possible to liberate this by stirring with 2N NaOH and CHCl3. The phases were separated, the aqueous phase was extracted twice with CHCl3 and the combined organic phases were dried over Na2SO4, filtered and concentrated i. vac. The chloroform used was probably contaminated with HCl.

reactant | Pyrrolidine | 41.3 mmol, 3.4 ml, 2.94 g | N1CCCC1 | C4H9N
reactant | 3-(2-bromo-ethyl)-5-fluoro-1H-indole | 20.7 mmol, 5.00 g | BrCCC1=CNC2=CC=C(C=C12)F | C10H9BrFN
reactant | NaOH | 2N | [OH-].[Na+]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 5-Fluoro-3-(2-(pyrrolidin-1-yl)ethyl)-1H-indole | FC=1C=C2C(=CNC2=CC1)CCN1CCCC1 | C14H17FN2
